US04581452
A mixture of α-trifluoromethylacrylic acid (700 mg; 5.0 mmoles) and urea (342 mg; 5.7 mmoles) in DMF (3 ml) was heated at 90° C. with stirring for 6 hours. DMF was evaporated under reduced pressure. The residue was purified by a column chromatography on silica gel (ethyl acetate) to give 540 mg (yield: 54%) of (2-hydroxycarbonyl-3,3,3-trifluoropropyl)urea. m.p.: 149°-149.5° C.

reactant | α-trifluoromethylacrylic acid | 5.0 mmoles, 700 mg | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | urea | 5.7 mmoles, 342 mg | NC(=O)N | CH4N2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (2-hydroxycarbonyl-3,3,3-trifluoropropyl)urea | 540 mg, yield: 54% | OC(=O)C(CNC(=O)N)C(F)(F)F | C5H7F3N2O3
